US05310743
(2R*,4S*)-2-Benzyl-1-(3,5-bis(trifluoromethyl)benzoyl)-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine
150 mg (0.384 mmol) of (2R*,4S*)-2-benzyl-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine are reacted in analogy to Example 4a with 93 mg (0.461 mmol) of 3,5-bis(trifluoromethyl)benzoic acid, 117 mg (0.461 mmol) of bis(2-oxo-3-oxazolidinyl)phosphinic chloride and 118 μl (0.845 mmol) of triethylamine. The title compound (191 mg, 79%) is obtained as oil. TLC: methylene chloride/methanol/conc. ammonia (2000:50:1) Rf =0.79, FD-MS: M+ =630.

reactant | (2R*,4S*)-2-benzyl-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine | 0.384 mmol, 150 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CCC1=CC=CC=C1 | C22H25F3N2O
reactant | 3,5-bis(trifluoromethyl)benzoic acid | 0.461 mmol, 93 mg | FC(C=1C=C(C(=O)O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O2
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.461 mmol, 117 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 0.845 mmol, 118 μl | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-2-Benzyl-1-(3,5-bis(trifluoromethyl)benzoyl)-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine | 191 mg, 79% | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CCC1=CC=CC=C1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C31H27F9N2O2
